US06515013B2
4′-{3-[(3R)-3-hydroxypyrrolidinyl]propoxy}[1,1′-biphenyl]-4-carbonitrile
4′-{3-[(3R)-3-Aminopyrrolidinyl]propoxy}[1,1′-biphenyl]-4-carbonitrile (200 mg, 0.74 mmol), (3R)-3-pyrrolidinol (70 mg, 0.81 mmol), potassium carbonate (152 mg) and potassium iodide (183 mg) in 25 mL of 2-butanone were heated at 110° C. for 72 hours. The mixture was evaporated under reduced pressure and the residue was purified by chromatography (CHCl3:MeOH:NH4OH, 9:1:0.1) to provide the title compound (69 % yield).

reactant | 4′-{3-[(3R)-3-Aminopyrrolidinyl]propoxy}[1,1′-biphenyl]-4-carbonitrile | 0.74 mmol, 200 mg | N[C@H]1CN(CC1)CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C20H23N3O
reactant | (3R)-3-pyrrolidinol | 0.81 mmol, 70 mg | N1C[C@@H](CC1)O | C4H9NO
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 183 mg | [I-].[K+]
solvent | 2-butanone | 25 mL | CC(CC)=O | C4H8O
product | 4′-{3-[(3R)-3-hydroxypyrrolidinyl]propoxy}[1,1′-biphenyl]-4-carbonitrile | 69 % yield | O[C@H]1CN(CC1)CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C20H22N2O2
